US04650810
(iii) 1H-Indole-5-acetamide
A solution of 1-acetyl-1H-indole-5-acetic acid, methyl ester (1.46 g) in methanol (10 ml) and conc. ammonium hydroxide (20 ml) was stirred at ambient temperature for 48 h. The resulting solution was poured into ethyl acetate (100 ml). The layers were separated and the aqueous layer was washed with ethyl acetate (3×50 ml) and chloroform (3×50 ml). The organic layers were dried (MgSO4) and the solvent was evaporated to give a solid (0.72 g). Crystallisation from ethyl acetate gave the title compound as a white solid, (0.3 g) m.p. 146°-7°.

reactant | 1-acetyl-1H-indole-5-acetic acid, methyl ester | 1.46 g | C(C)(=O)N1C=CC2=CC(=CC=C12)CC(=O)OC | C13H13NO3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonium hydroxide | 20 ml | [OH-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
product | 1H-Indole-5-acetamide | 0.72 g | N1C=CC2=CC(=CC=C12)CC(=O)N | C10H10N2O
